US08791267B2
Synthesis of (3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-(4-nitro-phenyl)-methanone (I-133).
To a solution of 4-nitro-benzoyl chloride (1900 mg, 10.2 mmol) in nitrobenzene (6 mL) was added aluminum trichloride (1360 mg, 10.2 mmol) at 0° C. The mixture was allowed to warm to room temperature and stirred at room temperature for 1 h, cooled to 0° C., and 3′-chloro-6-fluoro-2-methoxy-biphenyl (2.01 g, 8.5 mmol) in nitrobenzene (1 mL) was added at 0° C. The reaction mixture was allowed to warm to room temperature and stirred 24 h. The reaction mixture was cooled to −10° C. and quenched with ice-water (50 mL), extracted with ethyl acetate (2×25 mL), washed with water (2×10 mL), saturated aqueuos sodium bicarbonate (10 mL), brine (30 mL), and dried over Na2SO4. After filtration and removal of solvent, the crude was purified by crystallization from ether-hexane to give I-133 (3.00 g, 91% yield).

reactant | 4-nitro-benzoyl chloride | 10.2 mmol, 1900 mg | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | aluminum trichloride | 10.2 mmol, 1360 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 3′-chloro-6-fluoro-2-methoxy-biphenyl | 8.5 mmol, 2.01 g | ClC=1C=C(C=CC1)C1=C(C=CC=C1F)OC | C13H10ClFO
solvent | nitrobenzene | 6 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | nitrobenzene | 1 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (3′-chloro-2-fluoro-6-methoxy-biphenyl-3-yl)-(4-nitro-phenyl)-methanone | 91% yield | ClC=1C=C(C=CC1)C1=C(C(=CC=C1OC)C(=O)C1=CC=C(C=C1)[N+](=O)[O-])F | C20H13ClFNO4
